US08710063B2
2-[6-Chloro-8-(2-chlorophenyl)-2-methyl-purin-9-yl]acetamide
Heat a mixture of 2-[(5-amino-6-chloro-2-methyl-pyrimidin-4-yl)amino]acetamide (2.2 g, 0.01 mol), 2-chlorobenzaldehyde (2.86 g, 0.02 mol), p-toluene sulfonic acid (0.2 g) and molecular sieves (1.0 g) in toluene (50 mL) to reflux for 16 h. Cool and remove the sieves by filtration through diatomaceous earth. Concentrate the filtrate under reduced pressure to afford a residue. Dissolve the residue in dry dichloromethane (50 mL) and add 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (2.3 g, 0.01 mol) at 0° C. Allow to warm to room temperature and stir for 2 h. Dilute the reaction mixture with dichloromethane, wash with 1 N aqueous sodium hydroxide solution, water, and brine. Dry the organic layer over anhydrous sodium sulfate, filter, and concentrate to give a residue. Purify the residue on a silica gel column eluting with dichloromethane:methanol (98:2) to provide the title compound (0.3 g). ES/MS m/z 336 (M+1).

reactant | 2-[(5-amino-6-chloro-2-methyl-pyrimidin-4-yl)amino]acetamide | 0.01 mol, 2.2 g | NC=1C(=NC(=NC1Cl)C)NCC(=O)N | C7H10ClN5O
reactant | 2-chlorobenzaldehyde | 0.02 mol, 2.86 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | p-toluene sulfonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 0.01 mol, 2.3 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-[6-Chloro-8-(2-chlorophenyl)-2-methyl-purin-9-yl]acetamide | 0.3 g | ClC1=C2N=C(N(C2=NC(=N1)C)CC(=O)N)C1=C(C=CC=C1)Cl | C14H11Cl2N5O
